US07193113B2
Hexanol (1.5 mL, 12 mmol) was added to a pyridine (10 mL) solution dissolved with 60% sodium hydride containing mineral oil (0.56 g, 14 mmol) at 0° C., and the resultant solution was stirred for 1 hour at room temperature. After the solution was cooled to −20° C., pentafluorophenylbis(triflyl)methane (0.89 g, 2 mmol) was added. The reaction solution was stirred at −20° C. for 5 hours. After the reaction, the solution was acidified with 4 M hydrochloric acid water, and was extracted with diethylether. After drying with magnesium sulfate, the solution was filtrated, and the solvent was removed under reduced pressure. The crude product was purified by sublimation (0.2 to 0.3 torr, 65° C.), and 4-hexanoxy-2,3,5,6-tetrafluorophenylbis(triflyl)methane was obtained at 99% yield (1.02 g, 1.98 mmol).

reactant | Hexanol | 12 mmol, 1.5 mL | C(CCCCC)O | C6H14O
reactant | sodium hydride | [H-].[Na+]
reactant | pentafluorophenylbis(triflyl)methane | 2 mmol, 0.89 g | FC1=C(C(=C(C(=C1C(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F)F)F)F)F | C9HF11O4S2
reactant | hydrochloric acid water | 4 M | O.Cl
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 4-hexanoxy-2,3,5,6-tetrafluorophenylbis(triflyl)methane | 99% yield | C(CCCCC)OC1=C(C(=C(C(=C1F)F)C(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F)F)F | C15H14F10O5S2
